US05527819
Preparation of N-(3-aminobenzyl)-3-phenylsulfonyl-5-chloroindole-2-carboxamide (30)
A solution of N-(3-nitrobenzyl) 3-phenylsulfonyl-5-chloroindole-2-carboxamide (353 mg, 0.75 mmol) in tetrahydrofuran (25 mL) and methanol (10 mL) containing platinum oxide (70 mg) was hydrogenated with an atmospheric pressure of hydrogen for 3 hours. The degassed solution was filtered to remove catalyst and the solvents evaporated. The residue was triturated with diethyl ether to give the product. Crystallization from acetonitrile gave analytically pure product, mp 247°-249° C.

reactant | N-(3-nitrobenzyl) 3-phenylsulfonyl-5-chloroindole-2-carboxamide | 0.75 mmol, 353 mg | [N+](=O)([O-])C=1C=C(CNC(=O)C=2NC3=CC=C(C=C3C2S(=O)(=O)C2=CC=CC=C2)Cl)C=CC1 | C22H16ClN3O5S
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | methanol | 10 mL | CO | CH4O
catalyst | platinum oxide | 70 mg | [Pt]=O
product | N-(3-aminobenzyl)-3-phenylsulfonyl-5-chloroindole-2-carboxamide | NC=1C=C(CNC(=O)C=2NC3=CC=C(C=C3C2S(=O)(=O)C2=CC=CC=C2)Cl)C=CC1 | C22H18ClN3O3S
